US03943127
7-Trifluoromethylsulfinylacetamido-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid
To a solution of 3.1 g (0.009 mol) of 7-amino-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid in 60 ml of 3% aqueous sodium bicarbonate is added 60 ml of acetone. The solution is cooled to -15° and 1.94 g (0.010 mol) of trifluoromethylsulfinylacetyl chloride in 20 ml of acetone is added over a 10-minute period. The reaction mixture is stirred at -15° for 30 minutes while maintaining the pH at 7.6-8.0 by addition of 10 percent sodium hydroxide, then at 25° for 1 hour. The reaction mixture is extracted once with ether and the aqueous phase is acidified to pH 2.5 with dilute hydrochloric acid and extracted with ethyl acetate. The organic extracts are dried (MgSO4) and concentrated in vacuo to give the title compound.

reactant | 7-amino-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 0.009 mol, 3.1 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
reactant | trifluoromethylsulfinylacetyl chloride | 0.010 mol, 1.94 g | FC(S(=O)CC(=O)Cl)(F)F | C3H2ClF3O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sodium bicarbonate | 60 ml | C([O-])(O)=O.[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 7-Trifluoromethylsulfinylacetamido-3-(1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | FC(S(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)(F)F | C13H11F3N4O5S4
